// Generated for: spectre (Mar 20 14:05:34 2013 )
// Library name: gsclib045
// Cell name: DFFSHQX4
// View name: schematic

simulator lang=spectre

subckt DFFSHQX4 CK D Q SN VSS VDD
mn51 (n40 qbint n42 VSS) g45n1svt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn52 (n35 CKb n40 VSS) g45n1svt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn50 (n42 SN VSS VSS) g45n1svt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn26 (n20 CKb n21 VSS) g45n1svt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn25 (n21 D VSS VSS) g45n1svt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn55 (Q qbint VSS VSS) g45n1svt w=(1.04u) l=45n nf=1 as=145.6f ad=145.6f \
        ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n sb=140n \
        sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn30 (n25 SN VSS VSS) g45n1svt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn31 (mout n20 n25 VSS) g45n1svt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn35 (n20 CKbb n30 VSS) g45n1svt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn36 (n30 mout VSS VSS) g45n1svt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn20 (CKb CK VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn40 (n35 CKbb mout VSS) g45n1svt w=(205n) l=45n nf=1 as=28.7f ad=28.7f \
        ps=690n pd=690n nrd=682.927m nrs=682.927m sa=140n sb=140n sd=160n \
        sca=166.60249 scb=0.10864 scc=0.02069 m=(1)
mn45 (qbint n35 VSS VSS) g45n1svt w=(410n) l=45n nf=1 as=57.4f ad=57.4f \
        ps=1.1u pd=1.1u nrd=341.463m nrs=341.463m sa=140n sb=140n sd=160n \
        sca=111.73831 scb=0.08844 scc=0.01336 m=(1)
mn21 (CKbb CKb VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mp26 (n20 CKbb n22 VDD) g45p1svt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp25 (n22 D VDD VDD) g45p1svt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp55 (Q qbint VDD VDD) g45p1svt w=(1.56u) l=45n nf=1 as=218.4f ad=218.4f \
        ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n sb=140n sd=160n \
        sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp36 (n20 CKb n31 VDD) g45p1svt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp35 (n31 mout VDD VDD) g45p1svt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp20 (CKb CK VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp52 (n35 CKbb n41 VDD) g45p1svt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp31 (mout n20 VDD VDD) g45p1svt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp21 (CKbb CKb VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp50 (n41 SN VDD VDD) g45p1svt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp30 (mout SN VDD VDD) g45p1svt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp45 (qbint n35 VDD VDD) g45p1svt w=(620n) l=45n nf=1 as=86.8f ad=86.8f \
        ps=1.52u pd=1.52u nrd=225.806m nrs=225.806m sa=140n sb=140n \
        sd=160n sca=89.83593 scb=0.07618 scc=0.01064 m=(1)
mp51 (n41 qbint VDD VDD) g45p1svt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
mp40 (n35 CKb mout VDD) g45p1svt w=(310n) l=45n nf=1 as=43.4f ad=43.4f \
        ps=900n pd=900n nrd=451.613m nrs=451.613m sa=140n sb=140n sd=160n \
        sca=130.90642 scb=0.09728 scc=0.01590 m=(1)
ends DFFSHQX4
// End of subcircuit definition.

